US07186724B2
3-(1-Acetyl-piperidin-4-yl)-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester.
To a room temperature solution of 3-piperidin-4-yl-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester (4.37 g, 12.7 mmol), triethylamine (2.70 mL. 19.4 mmol), and anhydrous THF (80 mL) under nitrogen was added acetyl chloride (1.10 mL, 15.5 mmol) in one portion and the reaction stirred at room temperature overnight. The reaction was diluted with ethyl acetate (300 mL) and washed with water (150 mL) and brine (150 mL) successively. The organic layer was dried over magnesium sulfate, filtered, and the solvent removed. The residue was chromatographed on silica, eluting with 10% methanol/ethyl acetate, to afford 4.28 g (88%) of the desired product as a white solid, mp: 155.2° C.

reactant | 3-piperidin-4-yl-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | 12.7 mmol, 4.37 g | COC(=O)C1=C(C2=C(S1)C(=CC=C2)C(F)(F)F)C2CCNCC2 | C16H16F3NO2S
reactant | triethylamine | 19.4 mmol, 2.70 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 80 mL | C1CCOC1 | C4H8O
reactant | acetyl chloride | 15.5 mmol, 1.10 mL | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-Acetyl-piperidin-4-yl)-7-trifluoromethyl-benzo[b]thiophene-2-carboxylic acid methyl ester | 4.28 g, 88% | COC(=O)C1=C(C2=C(S1)C(=CC=C2)C(F)(F)F)C2CCN(CC2)C(C)=O | C18H18F3NO3S
